** sch_path: /Users/rwalters/GitHub/gf180-bandgap/.loom/worktrees/issue-18/design/smoke_test.sch
**.subckt smoke_test
VDD vdd 0 dc 3.3
VG vg 0 dc 1.5
R1 vdd vout 10k m=1
C1 vout 0 1p m=1
**** begin user architecture code


* pdk_include.spice is generated at run time by run_smoke_test.sh from
* $PDK_ROOT / $PDK -- kept out of this schematic so it has no hardcoded,
* machine-specific path (see docs/environment-setup.md).
.include pdk_include.spice
X1 vout vg 0 0 nfet_03v3_dss w=10u l=1u

.control
op
print v(vdd) v(vg) v(vout)
quit
.endc


**** end user architecture code
**.ends
.end
